US07135275B2
(1) Synthesis of 2-methoxycarbonylethyl isocyanate
To a solution containing 603.6 g of β-alanine-methylester sulfate and 1.5 liter of methyl alcohol, 1,256 ml of triethylamine was added at a freezing point and thereto, 235 ml of carbon disulfide was added dropwise at 10° C. or less. After the dropwise addition, the solution was stirred at 10° C. or less for 1 hour and then 288 ml of ethylchloroformate was added dropwise and in this state, the solution was stirred for 2 hours. After the reaction, the reaction solution was subjected to liquid separation with ethyl acetate and water. The extracted ethyl acetate layer was dried over magnesium sulfate and filtered and then the ethyl acetate was removed by distillation under reduced pressure to 389.1 g (yield: 89.3%) of the objective compound as an oily product.

reactant | β-alanine-methylester sulfate | 603.6 g | S(=O)(=O)(O)O.COC(CCN)=O
reactant | methyl alcohol | 1.5 liter | CO | CH4O
reactant | triethylamine | 1,256 ml | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 288 ml | C(C)OC(=O)Cl | C3H5ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | carbon disulfide | 235 ml | C(=S)=S | CS2
product | 2-methoxycarbonylethyl isocyanate | yield: 89.3% | COC(=O)CCN=C=O | C5H7NO3
